US08859566B2
A mixture of 8-(6-Chloro-pyridin-3-yl)-1-propyl-3,7-dihydro-purine-2,6-dione (0.5 g, 1.6 mmol) and 3-Trifluoromethyl-benzylamine (3 ml) was stirred in sealed tube for 48 hours at 200° C. Reaction mixture was cooled and filtered, washed with ethanol to get 1-Propyl-8-[6-(3-trifluoromethyl-benzylamino)-pyridin-3-yl]-3,7-dihydro-purine-2,6-dione as off white solid (0.61 g, 84%).

reactant | 8-(6-Chloro-pyridin-3-yl)-1-propyl-3,7-dihydro-purine-2,6-dione | 1.6 mmol, 0.5 g | ClC1=CC=C(C=N1)C1=NC=2NC(N(C(C2N1)=O)CCC)=O | C13H12ClN5O2
reactant | 3-Trifluoromethyl-benzylamine | 3 ml | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
product | 1-Propyl-8-[6-(3-trifluoromethyl-benzylamino)-pyridin-3-yl]-3,7-dihydro-purine-2,6-dione | C(CC)N1C(NC=2N=C(NC2C1=O)C=1C=NC(=CC1)NCC1=CC(=CC=C1)C(F)(F)F)=O | C21H19F3N6O2
